US08377922B2
5-(b) Propyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride
703 mg (1.24 mmol) of (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetra-hydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoro ethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid obtained in Example 5-(a) and 1.86 mL (24.8 mmol) of 1-propyl alcohol were mixed, 12.4 mL (49.6 mmol) of 4N hydrogen chloride/1,4-dioxane solution was added to the mixture, and the resulting mixture was stirred under nitrogen gas atmosphere at 45° C. for 4.5 hours.

reactant | (4S)-3-oxo-8-[2-(8-tert-butoxycarbonyl-5,6,7,8-tetra-hydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoro ethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetic acid | 1.24 mmol, 703 mg | O=C1N(CC2=C(C[C@H]1CC(=O)O)C=CC(=C2)OCCC=2N=C1N(CCCN1C(=O)OC(C)(C)C)C2)CC(F)(F)F | C27H33F3N4O6
reactant | 1-propyl alcohol | 24.8 mmol, 1.86 mL | C(CC)O | C3H8O
reactant | hydrogen chloride 1,4-dioxane | 49.6 mmol, 4N, 12.4 mL | Cl.O1CCOCC1
product | Propyl(4S)-3-oxo-8-[2-(5,6,7,8-tetrahydroimidazo[1,2-a]pyrimidin-2-yl)ethoxy]-2-(2,2,2-trifluoroethyl)-2,3,4,5-tetrahydro-1H-2-benzazepin-4-acetate hydrochloride | Cl.O=C1N(CC2=C(C[C@H]1CC(=O)OCCC)C=CC(=C2)OCCC=2N=C1N(CCCN1)C2)CC(F)(F)F | InChI=1S/C25H31F3N4O4.ClH/c1-2-9-36-22(33)13-18-11-17-4-5-21(12-19(17)14-32(23(18)34)16-25(26,27)28)35-10-6-20-15-31-8-3-7-29-24(31)30-20;/h4-5,12,15,18H,2-3,6-11,13-14,16H2,1H3,(H,29,30);1H/t18-;/m0./s1
